US05041448
A mixture of 3 parts of 6-chloro-9-[(4-fluorophenyl)methyl]-8-[[1-(phenylmethyl)-4-piperidinyl]-methyl]-9H-purine and 50 parts of a hydrochloric acid solution 1N was stirred and refluxed for 1.5 hours. After cooling, the mixture was made alkaline with ammonium hydroxide. The product was extracted with trichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was crystallized from a mixture of acetonitrile and ethanol. The product was filtered off and dried, yielding 1.5 parts (52%) of 9-[(4-fluorophenyl)methyl]-1,9-dihydro-8-[[1-(phenylmethyl)-4-piperidinyl]methyl]-6H-purin-6-one; mp. 197.0° C. (compound 185).

reactant | 6-chloro-9-[(4-fluorophenyl)methyl]-8-[[1-(phenylmethyl)-4-piperidinyl]-methyl]-9H-purine | ClC1=C2N=C(N(C2=NC=N1)CC1=CC=C(C=C1)F)CC1CCN(CC1)CC1=CC=CC=C1 | C25H25ClFN5
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 9-[(4-fluorophenyl)methyl]-1,9-dihydro-8-[[1-(phenylmethyl)-4-piperidinyl]methyl]-6H-purin-6-one | 52% | FC1=CC=C(C=C1)CN1C=2N=CNC(C2N=C1CC1CCN(CC1)CC1=CC=CC=C1)=O | C25H26FN5O
